US06355643B1
Step 1:1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine-4-carboxylic acid-(2,2-dimethyl)propyl ester
To 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine prepared as described in EXAMPLE 2 (0.416 mmol) in methylene chloride was added DIEA (0.832 mmol) and commercially available neopentyl chloroformate (0.499 mmol). This solution was stirred for 2 hours at 25° C. and then the title compound was purified on preparative hpic and isolated via lyophilization. FAB-MS: calc: 395.5 found: 396.2. 1H-NMR (CD3OD): 8.9 ppm (s, 1H); 7.8 ppm (d, 2H); 7.5 ppm (s, 1H); 7.45 ppm (d, 2H); 5.65 ppm (s, 2H); 3.8 ppm (s, 2H); 3.45 ppm (s, 2H); 3.3 ppm (m, 4H): 2.3 ppm (m, 4H); 0.95 ppm (m, 9H).

reactant | 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine | C(#N)C1=CC=C(CN2C(CNCC2)CC2=CN=CN2)C=C1 | C16H19N5
reactant | DIEA | 0.832 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | neopentyl chloroformate | 0.499 mmol | ClC(=O)OCC(C)(C)C | C6H11ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine-4-carboxylic acid-(2,2-dimethyl)propyl ester | CC(COC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)CC1=CN=CN1)(C)C | C22H29N5O2
